US07098212B2
5-Chloro-N-(2,2-dimethyl-propionyl)-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzenesulfonamide
To a solution of 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzenesulfonamide (0.050 g, 0.11 mmol) in acetonitrile (1.0 mL) was added 2,2-dimethyl-propionyl chloride (0.050 g, 0.47 mmol) and 1,8-diazobicyclo[5.4.0]undec-7-ene (0.25 mL, 1.64 mmol). The resulting reaction mixture was heated to 50° C. for 2 hours, concentrated in vacuo and purified by silica gel chromatography to give the title compound (0.030 g, LRMS: 554.4).

reactant | 5-chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzenesulfonamide | 0.11 mmol, 0.050 g | ClC=1C=CC(=C(C1)S(=O)(=O)N)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C21H25ClFN3O4S
reactant | 2,2-dimethyl-propionyl chloride | 0.47 mmol, 0.050 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 5-Chloro-N-(2,2-dimethyl-propionyl)-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzenesulfonamide | 0.030 g | ClC=1C=CC(=C(C1)S(=O)(=O)NC(C(C)(C)C)=O)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C26H33ClFN3O5S
